US05565571
(±)-5-(Aminomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone
(±)-5-(Azidomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone (PREPARATION 6, 354 mg, ~1.07 mmol) in methanol (40 ml) and palladium on carbon (10%, 50 mg) are mixed. The mixture is purged with nitrogen and then placed under an atmosphere of hydrogen (1 atm). The reaction is allowed to stir at 20°-25° for 16 hrs. After this time, the reaction is filtered and concentrated under reduced pressure to a solid amine. The crude amine is suitable for acetylation without further purification. An analytical sample is prepared by preparative TLC (SG) methanol/chloroform (10/90). The title compound is recovered as a solid, mp 143°-145°; FTIR (neat) cm-1 3368, 1757, 1646, 1412, 1244, 1025 and 714; MS (El, m/z) 305, 276, 233, 219, 44 and 29; NMR (CDCl3) 8.71, 8.62, 7.79, 7.39, 7.33, 4.79-4.70, 4.06, 3.92, 3.18. 2.98 and 1.52 δ.

reactant | (±)-5-(Azidomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone | ~1.07 mmol, 354 mg | N(=[N+]=[N-])CC1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1C=NC=CC1)F | C15H11F2N5O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | (±)-5-(Aminomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone | NCC1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1C=NC=CC1)F | C15H13F2N3O2
